US20010027196A1
5-Bromo-6-furan-2-yl-N4-methyl-pyrimidine-2,4-diamine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine and methylamine in ethanol. ES-MS m/e (°/o): 271 (M{81Br}+H+, 95), 269 (M{79Br}+H+, 100).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 5-Bromo-6-furan-2-yl-N4-methyl-pyrimidine-2,4-diamine | BrC=1C(=NC(=NC1C=1OC=CC1)N)NC | C9H9BrN4O
